US08232312B2
5-nitro-benzo[b]thiophene-3-carboxylic acid-amide
are obtained as a mixture during the reaction of a mixture of 6-nitro-benzo[b]-thiophene-3-carboxylic acid and 5-nitro-benzo[b]thiophene-3-carboxylic acid (Example XLV). The crude product is chromatographed on silica gel, while the two products are obtained as a mixture and further reacted directly in Example XII (30).

reactant | 6-nitro-benzo[b]-thiophene-3-carboxylic acid | [N+](=O)([O-])C=1C=CC2=C(SC=C2C(=O)O)C1 | C9H5NO4S
reactant | 5-nitro-benzo[b]thiophene-3-carboxylic acid | [N+](=O)([O-])C1=CC2=C(SC=C2C(=O)O)C=C1 | C9H5NO4S
product | 5-nitro-benzo[b]thiophene-3-carboxylic acid-amide | [N+](=O)([O-])C1=CC2=C(SC=C2C(=O)N)C=C1 | C9H6N2O3S
